US09216972B2
To a solution of 5-phenyl-4-(trifluoromethyl)isoxazole-3-carboxylic acid (Intermediate I-5D, 0.500 g, 1.94 mmol) in dichloromethane (5 mL) and methanol (1 mL) at room temperature was added trimethyldiazomethane (2.0 M in ether) (1.17 mL, 2.33 mmol) slowly over 10 min. During the addition, the solution remained colorless and the evolution of gas nitrogen was noted. Toward the end of the addition, the bubbling ceased and the solution became pale yellow. The reaction mixture was stirred overnight. The reaction mixture was diluted with dichloromethane (40 mL) and washed with brine (20 mL). The aqueous layer was extracted with dichloromethane (2×20 mL), and the organic layers were combined and dried over anhydrous sodium sulfate. Concentration under reduced pressure afforded methyl 5-phenyl-4-(trifluoromethyl)isoxazole-3-carboxylate (0.509 g, 1.88 mmol, 97% yield) as a yellow oil. The product had an HPLC with a ret. time=2.52 min. (condition A); 1H NMR (400 MHz, CDCl3) δ ppm 4.05 (s, 3H), 7.50-7.64 (m, 3H), and 7.70 (d, J=7.48 Hz, 2H).

reactant | 5-phenyl-4-(trifluoromethyl)isoxazole-3-carboxylic acid | 1.94 mmol, 0.500 g | C1(=CC=CC=C1)C1=C(C(=NO1)C(=O)O)C(F)(F)F | C11H6F3NO3
reactant | dichloromethane | 5 mL | ClCCl | CH2Cl2
reactant | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | methanol | 1 mL | CO | CH4O
product | methyl 5-phenyl-4-(trifluoromethyl)isoxazole-3-carboxylate | 1.88 mmol, 0.509 g, 97% yield | C1(=CC=CC=C1)C1=C(C(=NO1)C(=O)OC)C(F)(F)F | C12H8F3NO3
